US08648069B2
1-(Prop-2-ynyl)-1H-indazole
Indazole (530 mg, 4.49 mmol) was dissolved in dimethylformamide (4 mL). Sodium hydride (60% suspension in mineral oil, 231 mg, 5.78 mmol) was added slowly, and the mixture was stirred for 10 minutes. Propargyl bromide (80% wt in toluene, 5.0 mL) was added, and the mixture was stirred at ambient temperature overnight. The mixture was diluted with ethyl acetate, washed excessively with water, absorbed on silica gel, and purified by silica gel chromatography eluting with a gradient of 5-30% ethyl acetate in hexanes to afford the title compound. MS (ESI+) m/z 157.1 (M+H)+.

reactant | Indazole | 4.49 mmol, 530 mg | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | Sodium hydride | 5.78 mmol, 231 mg | [H-].[Na+]
reactant | Propargyl bromide | 5.0 mL | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(Prop-2-ynyl)-1H-indazole | C(C#C)N1N=CC2=CC=CC=C12 | C10H8N2
